* AX5043 RX circuit
* The original circuit had 78nH inductors, I had to change to
* 75nH because there aren't any space-capable 78nH inductors
* that I can find.  Really, the difference isn't large
* enough to matter.

.param m = 0

.SUBCKT AX5043RX in outp outn

L1	in	outp	75n
C1	in	outn	15p
C2	outp	0	15p
L2	outn	0	75n
L3	outp	0	1n

.ENDS

.if (m == 1)
I1  0  in  dc 0 ac 1
X1 in outp outn AX5043RX
Rl outp outn 100
.endif

.if (m == 2)
I1 outn outp dc 0 ac 1
X1 in outp outn AX5043RX
Rl in 0 50
.endif

.if (m == 3)
Vin 0 ina dc 0 AC 1 sin(0 1 146MEG 0 0 0)
Rin ina in 50
X1 in outp outn AX5043RX
Rl outp outn 100
.endif

.control

alterparam m = 1
reset
ac lin 50000 100Meg 200Meg
plot title "Input Impedance" v(in) vi(in)

alterparam m = 2
reset
ac lin 50000 100Meg 200Meg
plot title "Output Impedance" (v(outp)-v(outn)) (vi(outp)-vi(outn))

alterparam m = 3
reset
ac lin 50000 100Meg 200Meg
* Gain modifier is 2 * sqrt(Zin / Zout) = 2 * sqrt(50 / 100) = 1.414
plot title "Gain in circuit" db(1.414 * ((v(outp) - v(outn))) / v(ina))

.endc

.end
